US07132436B2
3-Chloro-N-[4-(5-chloro-2-thienyl)-1,3-thiazol-2-yl]-2-methylbenzenesulfonamide
The title compound was prepared from 4-(5-chloro-2-thienyl)-1,3-thiazol-2-amine and 3-chloro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a beige solid (29.9 mg) with purity >90%: MS (pos) m/z 405.0, 407.0; HRMS m/z 403.9278 (calc. of monoisotopic mass for C14H10Cl2N2O2S3 gives 403.9281).

reactant | 4-(5-chloro-2-thienyl)-1,3-thiazol-2-amine | ClC1=CC=C(S1)C=1N=C(SC1)N | C7H5ClN2S2
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-N-[4-(5-chloro-2-thienyl)-1,3-thiazol-2-yl]-2-methylbenzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)C=1SC(=CC1)Cl)C | C14H10Cl2N2O2S3
